US07115620B2
To a solution of 2,4-difluoro-phenyl isothiocyanate (1.00 g, 5.84 mmol) in dichloromethane (20 mL) at room temperature was added neopentylamine (0.90 mL, 7.6 mmol) and the reaction was stirred overnight at room temperature. The mixture was concentrated in vacuo and the resulting residue was triturated with diethyl ether and filtered to afford 1.28 g (85%) of 1-(2,4-difluoro-phenyl)-3-(2,2-dimethylpropyl)-thiourea as a white solid which was used without further purification.

reactant | 2,4-difluoro-phenyl isothiocyanate | 5.84 mmol, 1.00 g | FC1=C(C=CC(=C1)F)N=C=S | C7H3F2NS
reactant | neopentylamine | 7.6 mmol, 0.90 mL | C(C(C)(C)C)N | C5H13N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-(2,4-difluoro-phenyl)-3-(2,2-dimethylpropyl)-thiourea | 1.28 g, 85% | FC1=C(C=CC(=C1)F)NC(=S)NCC(C)(C)C | C12H16F2N2S
